US04868321
A solution of 1.75 g (0.0076 mole) of 1-(4-chloro-2-fluorophenyl)-1,4-dihydro-5H-tetrazol-5-thione, 0.57 ml (0.0076 mole) of bromoethane, and 1.6 g (0.012 mole) of potassium carbonate in 8 ml of acetone was stirred at room temperature for seven hours. The solvent was evaporated from the reaction mixture under reduced pressure leaving a residue. This residue was dissolved in diethyl ether and the organic solution was washed with water. The washed organic phase was dried over anhydrous magnesium sulfate and filtered. The filtrate was evaporated under reduced pressure to yield 1.6 g of (1-(4-chloro-2-fluorophenyl)-1H-tetrazol-5-yl) ethyl sulfide as a solid, m.p. 76°-79° C.

reactant | 1-(4-chloro-2-fluorophenyl)-1,4-dihydro-5H-tetrazol-5-thione | 0.0076 mole, 1.75 g | ClC1=CC(=C(C=C1)N1N=NNC1=S)F | C7H4ClFN4S
reactant | bromoethane | 0.0076 mole, 0.57 ml | BrCC | C2H5Br
reactant | potassium carbonate | 0.012 mole, 1.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 8 ml | CC(=O)C | C3H6O
solvent | diethyl ether | C(C)OCC | C4H10O
product | (1-(4-chloro-2-fluorophenyl)-1H-tetrazol-5-yl) ethyl sulfide | 1.6 g | C(C)SC1=NN=NN1C1=C(C=C(C=C1)Cl)F | C9H8ClFN4S
